US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 0.100 g (0.342 mmol) of 3-(3,4-Dimethyl-benzoyl)-7-methyl-1H-[1,8]naphthyridin-4-one, 16.4 mg (0.410 mmol, 60% dispersion in oil) of sodium hydride, 0.103 g (0.410 mmol) of 2-bromo-6-bromomethyl-pyridine and 3.5 mL of N,N dimethylformamide. The crude brown solid was purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 29.5 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-7-methyl-1H-[1,8]naphthyridin-4-one as an off white solid. LC-MSD, m/z for C24H20BrN3O2 [M+H]: 463.07 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.7 min

reactant | 3-(3,4-Dimethyl-benzoyl)-7-methyl-1H-[1,8]naphthyridin-4-one | 0.342 mmol, 0.100 g | CC=1C=C(C(=O)C2=CNC3=NC(=CC=C3C2=O)C)C=CC1C | C18H16N2O2
reactant | sodium hydride | 0.410 mmol, 16.4 mg | [H-].[Na+]
reactant | 2-bromo-6-bromomethyl-pyridine | 0.410 mmol, 0.103 g | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | N,N dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-7-methyl-1H-[1,8]naphthyridin-4-one | 29.5 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=C(N=C12)C)=O)C(C1=CC(=C(C=C1)C)C)=O | C24H20BrN3O2
